US07148236B2
To a stirred mixture of chlorzoxazone (10 g, 58.9 mmol) and CH2Cl2 (˜500 cm3) was added chlorosulphonic acid (4.3 cm3, 64.8 mmol) at room temperature. The reaction was left at room temperature for a week whereupon all the solvent had evaporated leaving a white solid. NMR showed a 1:2 mixture of product and starting material respectively. This crude was extracted with H2O (3×15 cm3), then the aqueous was concentrated in vacuo to a sticky solid which was washed with CH2Cl2 (4×40 cm3) to yield 5-Chloro-2-oxo-2,3-dihydro-benzooxazole-6-sulfonic acid as a fine white solid; δH (300 MHz; D6 DMSO) 7.10 (1H, s, Ar—H), 7.68 (1H, s, Ar—H) and 11.80 (1H, s, N—H); LCMS retention time ˜0.47 min, m/z (FIANEG) 247.9 [Cl35 (M−H)−, 100%] and 249.9 [Cl37 (M−H)−, 33%].

reactant | chlorzoxazone | 58.9 mmol, 10 g | C1=CC2=C(C=C1Cl)NC(=O)O2 | C7H4ClNO2
reactant | chlorosulphonic acid | 64.8 mmol, 4.3 cm3 | ClS(=O)(=O)O | ClHO3S
solvent | CH2Cl2 | ˜500 cm3 | C(Cl)Cl | CH2Cl2
product | 5-Chloro-2-oxo-2,3-dihydro-benzooxazole-6-sulfonic acid | ClC=1C(=CC2=C(NC(O2)=O)C1)S(=O)(=O)O | C7H4ClNO5S
